US08217064B2
A mixture of compound ethyl 1-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-4,4-dimethylcyclohexanecarboxylate (200 mg, 0.37 mmol) and lithium hydroxide monohydrate (88 mg, 3.7 mmol) in a MeOH/THF/Water solvent mixture (5 ml/5 ml5/ml) was stirred for 3 h at room temperature. After completion of the reaction, the volatiles were removed under reduced pressure. The residue was diluted with water, acidified with 5% HCl solution and extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with water, dried over Na2SO4, filtered and evaporated under reduced pressure. The residue was purified by Flash Column Chromatography to give 1-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-4,4-dimethylcyclohexanecarboxylic acid in 67% yield (150 mg). 1H-NMR (CDCl3, 400 MHz): 7.72 (d, 2H); 7.65 (d, 2H), 7.56 (s, 1H); 7.34 (s, 1H); 3.98 (q, 2H); 2.48 (dd, 2H); 1.88 (m, 2H); 1.41 (m, 4H), 0.98 (s, 3H), 0.91 (s, 3H).

reactant | ethyl 1-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-4,4-dimethylcyclohexanecarboxylate | 0.37 mmol, 200 mg | ClC=1C=C(C=C(C1OCC(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)C1(CCC(CC1)(C)C)C(=O)OCC | C26H27ClF6O3
reactant | lithium hydroxide monohydrate | 3.7 mmol, 88 mg | O.[OH-].[Li+]
solvent | MeOH THF Water | CO.C1CCOC1.O
product | 1-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-4,4-dimethylcyclohexanecarboxylic acid | 67% yield | ClC=1C=C(C=C(C1OCC(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)C1(CCC(CC1)(C)C)C(=O)O | C24H23ClF6O3
